US05100434
Fibers were made in a similar manner from the same diaminedithiol intermediate and 100% bromoterephthaloyl chloride; from 100% iodoterephthaloyl chloride; from 50% iodoterephthaloyl chloride/50% terephthaloyl chloride; from 50% chlorophthaloyl chloride/50% terephthaloyl chloride; and from 100% terephthaloyl chloride to give the control polybisbenzothiazole.

reactant | bromoterephthaloyl chloride | BrC1=C(C(=O)Cl)C=CC(=C1)C(=O)Cl | C8H3BrCl2O2
reactant | iodoterephthaloyl chloride | IC1=C(C(=O)Cl)C=CC(=C1)C(=O)Cl | C8H3Cl2IO2
reactant | chlorophthaloyl chloride | ClC1=C(C(C(=O)Cl)=CC=C1)C(=O)Cl | C8H3Cl3O2
product | terephthaloyl chloride | 100% | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
